US07741341B2
(i) 2-Amino-3-nitro-6-(2,2,2-trifluoro-ethoxy)-benzoic acid ethyl ester
420 mg NaH (60% suspension in oil) were added to a solution of 2.16 mL (29.8 mmol) 2,2,2-trifluoro-ethanol in 5 mL THF. When the gas evolution ceased, 1.0 g (4.38 mmol) 2-Amino-6-fluoro-3-nitro-benzoic acid ethyl ester was added. The resulting mixture was stirred at 0° C. for 30 minutes and at room temperature for further 30 minutes. To this mixture were added 2 mL of a 6 M aqueous HCl-solution, and most of the solvent was removed under reduced pressure. The residue was mixed with 20 mL water and the resulting solid was collected and washed with water and then hexane. The obtained yellow crystalline material was dried under reduced pressure at 35° C. Yield: 1.22 g.

reactant | NaH | 420 mg | [H-].[Na+]
reactant | 2,2,2-trifluoro-ethanol | 29.8 mmol, 2.16 mL | FC(CO)(F)F | C2H3F3O
reactant | 2-Amino-6-fluoro-3-nitro-benzoic acid ethyl ester | 4.38 mmol, 1.0 g | C(C)OC(C1=C(C(=CC=C1F)[N+](=O)[O-])N)=O | C9H9FN2O4
reactant | HCl | 6 M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-Amino-3-nitro-6-(2,2,2-trifluoro-ethoxy)-benzoic acid ethyl ester | C(C)OC(C1=C(C(=CC=C1OCC(F)(F)F)[N+](=O)[O-])N)=O | C11H11F3N2O5
